US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with 1-ethyl-propylamine following general procedure B to afford 4-(1-ethyl-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (240 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (160 mg) following general procedure E.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 1-ethyl-propylamine | C(C)C(CC)N | C5H13N
product | 4-(1-ethyl-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 240 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC(CC)CC)OC | C18H24N2O3
